US04808620
A solution of 4-(2-chloro-6-isopropylnicotinoyl)-2,6-di-tertiary butylphenol and hydrazine hydrate in pyridine is refluxed. After the pyridine is distilled off, to the residue is added water. The resulting crystals are recrystallized from ethanol to give 3-(3,5-di-tertiary butyl-4-hydroxyphenyl)-6-isopropyl-1H-pyrazolo[3,4-b]pyridine.

reactant | 4-(2-chloro-6-isopropylnicotinoyl)-2,6-di-tertiary butylphenol | ClC1=C(C(=O)C2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C=CC(=N1)C(C)C | C23H30ClNO2
reactant | hydrazine hydrate | O.NN
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-(3,5-di-tertiary butyl-4-hydroxyphenyl)-6-isopropyl-1H-pyrazolo[3,4-b]pyridine | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1=NNC2=NC(=CC=C21)C(C)C | C23H31N3O
